US05516845
Tert.butylcumylperoxide (BCPU);
2,5-dimethyl-2,5di(tert.butylperoxy) hexane (DHBP); di(tert.butyl) peroxide (DTBP); 2,5-dimethyl-2,5-di(tert.butylperoxy) hexine (DYBP); dicumylperoxide (DCUP).

reactant | 2,5-dimethyl-2,5di(tert.butylperoxy) hexane | CC(C)(CCC(C)(OOC(C)(C)C)C)OOC(C)(C)C | C16H34O4
reactant | di(tert.butyl) peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | 2,5-dimethyl-2,5-di(tert.butylperoxy) hexine | CC(C)(C#CC(C)(OOC(C)(C)C)C)OOC(C)(C)C | C16H30O4
reactant | dicumylperoxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
product | Tert.butylcumylperoxide | C(C)(C)(C)OOC(C)(C)C1=CC=CC=C1 | C13H20O2
